US08445495B2
Methyl 3-(bromomethyl)-2,6-difluorobenzoate.
To a room temperature solution of methyl 2,6-difluoro-3-methylbenzoate (9.35 g, 50.2 mmol, 1.0 equiv) and N-bromosuccinimide (11.6 g, 65.3 mmol, 1.3 equiv) in carbon tetrachloride (230 mL) was added catalytic AIBN (˜200 mg) as a solid in one portion. The resulting reaction mixture was heated to reflux overnight. After the reaction mixture was allowed to cool to room temperature, it was washed with aq. satd. NaHCO3. The aqueous layer was extracted with dichloromethane, and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to provide 14.24 g (>100% mass recovery) of unpurified bromide, which was taken on to the next step without purification.

reactant | methyl 2,6-difluoro-3-methylbenzoate | 50.2 mmol, 9.35 g, 1.0 equiv | FC1=C(C(=O)OC)C(=CC=C1C)F | C9H8F2O2
reactant | N-bromosuccinimide | 65.3 mmol, 11.6 g, 1.3 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 230 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | ˜200 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | Methyl 3-(bromomethyl)-2,6-difluorobenzoate | 14.24 g, >100% | BrCC=1C(=C(C(=O)OC)C(=CC1)F)F | C9H7BrF2O2
